US08012956B2
1-(1-methylethyl)piperidin-4-amine
Synthesized according to the method of reagent preparation 9 by using acetone and 1,1-dimethylethyl piperidin-4-ylcarbamate. MS (EI) for C8H18N2: 143 (MH+).

reactant | 1,1-dimethylethyl piperidin-4-ylcarbamate | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | acetone | CC(=O)C | C3H6O
product | 1-(1-methylethyl)piperidin-4-amine | CC(C)N1CCC(CC1)N | C8H18N2
